US06090815
Synthesis of 2-(5-chloro-2-methyl-6-trifluoromethylpyrimidin-4-yloxy)-N-(1-cyano-1,2,2-trimethylpropyl)propionamide (Compound Nos. A-151 and A-152)
1-Ethyl-3-(3-dimethylaminopropyl)carbodimide hydrochloride (0.8 g) was added to a solution containing 2-(5-chloro-2-methyl-6-trifluoromethylpyrimidin-4-yloxy)propionic acid (1.0 g) dissolved in tetrahydrofuran (30 ml), at room temperature, and the mixture was stirred for 30 min. Subsequently, 2-amino-2,3,3-trimethylbutyronitrile (0.5 g) was added to the mixture, and the reaction mixture was stirred for 10 hours at room temperature. After completion of the reaction, water was added to the resulting mixture and the organic layer was extracted with ethyl acetate, and subsequently dried over anhydrous magnesium sulfate. The ethyl acetate was removed under reduced pressure. The residue was purified by column chromatography on silica gel to give 0.3 g of the A-configurational diastereomer having a melting point of 1 33° C. to 1 34° C. and 0.2 g of the B-configurational diastereomer having a melting point of 137° C. to 139° C.

reactant | 1-Ethyl-3-(3-dimethylaminopropyl)carbodimide hydrochloride | 0.8 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 2-(5-chloro-2-methyl-6-trifluoromethylpyrimidin-4-yloxy)propionic acid | 1.0 g | ClC=1C(=NC(=NC1C(F)(F)F)C)OC(C(=O)O)C | C9H8ClF3N2O3
reactant | 2-amino-2,3,3-trimethylbutyronitrile | 0.5 g | NC(C#N)(C(C)(C)C)C | C7H14N2
reactant | water | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2-(5-chloro-2-methyl-6-trifluoromethylpyrimidin-4-yloxy)-N-(1-cyano-1,2,2-trimethylpropyl)propionamide | ClC=1C(=NC(=NC1C(F)(F)F)C)OC(C(=O)NC(C(C)(C)C)(C)C#N)C | C16H20ClF3N4O2
